US05824824
A solution of 20.2 g (0.10 mol) of diphenyl sulfoxide in 200 g of methylene chloride was cooled on an ice bath. To the solution, 5.3 g (0.052 mol) of triethylamine was added and 32.6 g (0.30 mol) of trimethylsilyl chloride was dropwised at 0° to 20° C. Stirring was continued at 0° to 10° C. for 15 minutes. To this solution, a Grignard reagent which was conventionally prepared from 55.4 g (0.30 mol) of 4-tert-butoxychlorobenzene, 7.3 g (0.30 mol) of magnesium, and 90 g of THF was dropwised at 0° to 10 ° C. Stirring was continued at 0° to 10° C. for 30 minutes. 500 g of 20% ammonium chloride aqueous solution was added to the reaction mixture. To the organic layer was added 1,000 g of chloroform. The organic layer was once washed with 200 g of water and the solvent was evaporated. The residue was purified by recrystalization, isolating 26.6 g (yield 72%) of (4-tert-butoxyphenyl)diphenylsulfonium chloride with 98% purity.

reactant | diphenyl sulfoxide | 0.10 mol, 20.2 g | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | triethylamine | 0.052 mol, 5.3 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 0.30 mol, 32.6 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 4-tert-butoxychlorobenzene | 0.30 mol, 55.4 g | C(C)(C)(C)OC1=CC=C(C=C1)Cl | C10H13ClO
reactant | magnesium | 0.30 mol, 7.3 g | [Mg] | Mg
reactant | ammonium chloride | 500 g | [Cl-].[NH4+]
solvent | methylene chloride | 200 g | C(Cl)Cl | CH2Cl2
solvent | chloroform | 1,000 g | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 90 g | C1CCOC1 | C4H8O
product | (4-tert-butoxyphenyl)diphenylsulfonium chloride | 26.6 g, yield 72% | [Cl-].C(C)(C)(C)OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H23OS.ClH/c1-22(2,3)23-18-14-16-21(17-15-18)24(19-10-6-4-7-11-19)20-12-8-5-9-13-20;/h4-17H,1-3H3;1H/q+1;/p-1
